US07622462B2
To an ice-water bath cooled suspension of 5-(1H-indol-5-yl)-1,2,4,5-tetrahydro-benzo[c]azepin-3-one (0.50 g, 1.8 mmol) in tetrahydrofuran (75 mL) was added lithium aluminum hydride (0.27 g, 7.2 mmol) as a slurry in tetrahydrofuran (5 mL). The mixture was heated to reflux for 100 minutes, then cooled in an ice-water bath and quenched with water (0.6 mL), 15% aqueous KOH (0.6 mL), and also crushed sodium sulfate decahydrate (14 g). The mixture was stirred mixture at room temperature for 30 minutes, then filtered and washed with ethyl acetate. The organic layer was concentrated to a yellow oil that was purified by flash chromatography (ammonium hydroxide/methanol/dichloromethane) to afford pure 5-(1H-indol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[c]azepine as a colorless foam (0.20 g, MS (M+H)=263), as well as some product (0.23 g) contaminated with an uncharacterized tetrahydrofuran-aluminum complex as a colorless foam. The contaminated product was dissolved in 1:1 ethyl acetate:diethyl ether (5 mL), and 1.0 M HCl in diethyl ether (0.9 mL) was added dropwise, under a blanket of dry nitrogen gas. The white solid precipitate was collected by filtration and washed with ice-cold diethyl ether and tetrahydrofuran. The solid was suspended in ethanol and evaporated to dryness under reduced pressure, and that process was repeated to afford pure 5-(1H-indol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[c]azepine hydrochloride as an off-white powder (0.16 g).

reactant | 5-(1H-indol-5-yl)-1,2,4,5-tetrahydro-benzo[c]azepin-3-one | 1.8 mmol, 0.50 g | N1C=CC2=CC(=CC=C12)C1C2=C(CNC(C1)=O)C=CC=C2 | C18H16N2O
reactant | lithium aluminum hydride | 7.2 mmol, 0.27 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(1H-indol-5-yl)-2,3,4,5-tetrahydro-1H-benzo[c]azepine | N1C=CC2=CC(=CC=C12)C1C2=C(CNCC1)C=CC=C2 | C18H18N2
